* ============================================================
* GT variant V3 -- TWO-STAGE MILLER-COMPENSATED LDO
*   Stresses: the single-resonance / 2-branch-RLC Zout assumption. A second
*             gain stage + Miller pole-split adds poles -> the Zout may show a
*             second peak or a different roll-off slope than (R+sL)||(ESR+1/sC).
*   Stage 1 = 5T OTA (output no1). Stage 2 = CS-NMOS gain stage w/ PMOS current
*   load, drives pass gate ng. Miller cap Cmil from ng to no1.
* ============================================================
.subckt ldo_v3_miller vin vout vref=0.6 wp=30u lp=0.3u wi=10u li=0.5u
+ wm=10u lm=0.5u wt=20u lt=0.5u wb=20u lb=0.5u ib=10u
+ w2=20u l2=0.5u wl2=10u ll2=0.5u cm=15p rz=300k
+ r1=500k r2=1meg cout=1n resr=0.5 cg=0.3p

* pass PMOS
mp vout ng vin vin plv W={wp} L={lp}

* --- stage 1: 5T OTA, output no1.  m1 diode side gate=vrefn ; m2 out side gate=fb
*     (fb up -> no1 down -> ng up -> pass off -> vout down : negative feedback) ---
m1 n1  vrefn vtail 0 nlv W={wi} L={li}
m2 no1 fb    vtail 0 nlv W={wi} L={li}
m3 n1  n1    vin vin plv W={wm} L={lm}
m4 no1 n1    vin vin plv W={wm} L={lm}
mtail vtail nb 0 0 nlv W={wt} L={lt}
mb   nb nb 0 0     nlv W={wb} L={lb}
Ibias vin nb DC {ib}
Vrefs vrefn 0 DC {vref}

* --- stage 2: common-source NMOS gain stage, PMOS current-source load -> ng ---
m2g ng  no1   0   0   nlv W={w2} L={l2}
m2l ng  pbias vin vin plv W={wl2} L={ll2}
mpb pbias pbias vin vin plv W={wl2} L={ll2}
Ipb pbias 0 DC {ib}

* Miller compensation (pole split) ng -> no1, with nulling resistor
Rz ng nz {rz}
Cmil nz no1 {cm}

R1 vout fb {r1}
R2 fb 0 {r2}
Cout vout ncesr {cout}
Resr ncesr 0 {resr}
Cgate ng 0 {cg}
.ends ldo_v3_miller
